US04216160
N-acetyl-2-(triphenylmethylthio) acetamide
A mixture of 0.009 mole of triphenylmethyl mercaptan and 0.009 mole of triethylamine in 10 ml. of dimethylformamide is cooled to 0°-5° C. in an ice bath and 0.009 mole of N-acetyl-2-chloroacetamide added. The reaction mixture is stirred at ambient temperature for three hours and then poured into 100 ml. of benzene and 100 ml. of water. The organic layer is separated, washed well with water, dried over sodium sulfate and concentrated to dryness. The residue is crystallized under petroleum ether to give 2.2 g. of Nacetyl-2-(triphenylmethylthio) acetamide.

reactant | triphenylmethyl mercaptan | 0.009 mole | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)S | C19H16S
reactant | triethylamine | 0.009 mole | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | N-acetyl-2-chloroacetamide | 0.009 mole | C(C)(=O)NC(CCl)=O | C4H6ClNO2
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-acetyl-2-(triphenylmethylthio) acetamide | C(C)(=O)NC(CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H21NO2S
